US06919336B2
a) (4-Bromo-phenyl)-(2-chloro-phenyl)-methanol
2,4-Difluoroaniline (0.28 ml; 2.7 mmol), NaOtBu (260 mg; 2.7 mmol), Pd(OAc)2 (10 mg; 0.04 mmol), R-(+)-BINAP (10 mg; 0.02 mmol) and (4-bromo-phenyl)-(2-chloro-phenyl)-methanone (200 mg; 0.67 mmol) are dissolved in dioxan (3 ml) and refluxed for 20 min. The reaction mixture is poured on water and extracted with TBME twice. The combined organic phases are dried over Na2SO4, evaporated to dryness and purified via chromatography (SiO2; TBME/hexanes 5/95>2/8) to yield the title compound (103 mg; 44%) as brownish crystals. Recrystallisation from acetone hexanes yields colorless crystals (48 mg; 21%).

reactant | 2,4-Difluoroaniline | 2.7 mmol, 0.28 ml | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | NaOtBu | 2.7 mmol, 260 mg | CC(C)(C)[O-].[Na+]
reactant | (4-bromo-phenyl)-(2-chloro-phenyl)-methanone | 0.67 mmol, 200 mg | BrC1=CC=C(C=C1)C(=O)C1=C(C=CC=C1)Cl | C13H8BrClO
solvent | dioxan | 3 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.04 mmol, 10 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (4-Bromo-phenyl)-(2-chloro-phenyl)-methanol | 103 mg, 44% | BrC1=CC=C(C=C1)C(O)C1=C(C=CC=C1)Cl | C13H10BrClO
